US06956050B2
STEP 1. 4-fluoro-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate and 4-fluorobenzenesulfonamide. MS (ESI) m/z 493 [M+H]+, 491 [M−H]−, 1H-NMR (CDCl3) δ 1.23 (3H, t, J=7.5 Hz), 2.68 (2H, q, J=7.7 Hz), 2.87 (2H, t, J=7.0 Hz), 3.42-3.60 (2H, m), 6.46 (1H, br), 7.16-7.28 (7H, m), 7.37 (2H, t, J=7.3 Hz), 7.76 2H, d, J=7.1 Hz), 7.85-7.91 (2H, m).

reactant | 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC([O-])=O
reactant | 4-fluorobenzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
product | 4-fluoro-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C26H25FN4O3S
